US08748613B2
To a solution of methyl 2-(piperidin-1-yl)-2-p-tolylacetate (273 mg, 1.10 mmol) in dioxane (2 ml), was added 37% HCl (3.35 ml, 110 mmol). The reaction was heated under microwave irradiation at 100° C. for 4 hours. The solvents were evaporated and the residue was triturated with Et2O to collect 2-(piperidin-1-yl)-2-p-tolylacetic acid hydrochloride (242 mg, 81% yield) as a white solid.

reactant | methyl 2-(piperidin-1-yl)-2-p-tolylacetate | 1.10 mmol, 273 mg | N1(CCCCC1)C(C(=O)OC)C1=CC=C(C=C1)C | C15H21NO2
reactant | HCl | 110 mmol, 3.35 ml | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-(piperidin-1-yl)-2-p-tolylacetic acid hydrochloride | 242 mg, 81% yield | Cl.N1(CCCCC1)C(C(=O)O)C1=CC=C(C=C1)C | InChI=1S/C14H19NO2.ClH/c1-11-5-7-12(8-6-11)13(14(16)17)15-9-3-2-4-10-15;/h5-8,13H,2-4,9-10H2,1H3,(H,16,17);1H
